US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionate (3.3 g) and potassium hydroxide (1.5 g) in ethanol (60 ml) and water (30 ml) was refluxed under heating for 48 hours. After cooling, ethanol was distilled off from the reaction mixture. To the residue was added water, and the aqueous solution was washed with diethyl ether, acidified with conc. hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried and then evaporated under reduced pressure to give oily 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionic acid (1.9 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionate | 3.3 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)SC1=C(C=CC=C1)Cl)OC | C19H18ClNO3S
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]propionic acid | 1.9 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)C(C(=O)O)C | C16H15ClO3S
